US06342644B1
A 688 ml (6.0 mol) portion of mesityl oxide was put into a one liter capacity four neck flask, 4.18 ml (10 mmol) of 40% benzyltrimethylammonium hydroxide aqueous solution was added dropwise thereto and the mixture was heated to 80° C. To this was added dropwise 172 ml (2.0 mol) of 4-hydroxy-2-butanone spending 1 hour while keeping at 80° C. After completion of the dropwise addition, this was stirred for 30 minutes and then neutralized by adding dropwise 0.69 ml of acetic acid. By carrying out distillation of the reaction solution under a reduced pressure, 180 g of piperitenone was obtained. Yield 60%.

reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | benzyltrimethylammonium hydroxide | 10 mmol, 4.18 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 4-hydroxy-2-butanone | 2.0 mol, 172 ml | OCCC(C)=O | C4H8O2
solvent | acetic acid | 0.69 ml | C(C)(=O)O | C2H4O2
product | piperitenone | 180 g, Yield 60% | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
